US05075303
5,6,7,8-Tetrahydro-7-(methylamino)quinoline
A solution of methylammonium chloride (1.35 g, 20 mmol) in methanol (2 ml) was added to 5,6-dihydroquinoline (1.31 g, 10 mmol) in methanol (2 ml) and the solution was heated under reflux for 21h, poured onto a mixture of water (25 ml) and brine (25 ml), and basified with 10N-NaOH (25 ml). The mixture was extracted with chloroform (3×25 ml), and the extracts were dried (Na2SO4) and concentrated in vacuo to give an orange oil. Chromatography [alumina; ethyl acetate-toluene (1:4)→ethyl acetate] gave the product (1.35 g) as an oil which was identical to the compound isolated in Example 2.

reactant | methylammonium chloride | 20 mmol, 1.35 g | [Cl-].C[NH3+]
reactant | 5,6-dihydroquinoline | 10 mmol, 1.31 g | N1=CC=CC=2CCC=CC12 | C9H9N
reactant | water | 25 ml | O | H2O
reactant | NaOH | 25 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | brine | 25 ml | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
product | 5,6,7,8-Tetrahydro-7-(methylamino)quinoline | 1.35 g | CNC1CCC=2C=CC=NC2C1 | C10H14N2
